US05998433
a) Synthesis of 5-(9,10,10-trioxo-9,10-dihydro-10λ6 -thioxanthene-3-carbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine
To a solution of 0.160 g (1.000 mmol) of 4,5,6,7-tetrahydrofuro[3,2-c]pyridine hydrochloride, 0.346 g (1.2 mmol) of 9-oxo-9H-thioxanthene-3-carboxylic acid 10,10-dioxide and 0.55 ml (4.0 mmol) of triethylamine in 30 ml of dichloromethane, 0.24 g (1.5 mmol) of diethyl cyanophosphonate was added under ice-cooling, followed by overnight stirring at room temperature. The reaction mixture was poured into water and extracted with dichloromethane 2 times. The combined organic layer was washed with water and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=1/1) to yield the desired product.

reactant | 4,5,6,7-tetrahydrofuro[3,2-c]pyridine hydrochloride | 1.000 mmol, 0.160 g | Cl.O1C=CC=2CNCCC21
reactant | 9-oxo-9H-thioxanthene-3-carboxylic acid 10,10-dioxide | 1.2 mmol, 0.346 g | O=C1C2=CC=CC=C2S(C=2C=C(C=CC12)C(=O)O)(=O)=O | C14H8O5S
reactant | triethylamine | 4.0 mmol, 0.55 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 1.5 mmol, 0.24 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 5-(9,10,10-trioxo-9,10-dihydro-10λ6 -thioxanthene-3-carbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine | O=C1C2=CC=CC=C2S(C=2C=C(C=CC12)C(=O)N1CC2=C(CC1)OC=C2)(=O)=O | C21H15NO5S
